US05015651
Methyl 4'-azidomethylbiphenyl-2-carboxylate
To a solution of methyl 4'-bromomethylbiphenyl-2-carboxylate (5.0 g, 16.4 mmol) in DMF (40 ml) was added sodium azide (2.7 g, 41 mmol). The mixture was stirred overnight at room temperature, filtered, and the filtrate was partitioned between water and ethyl acetate (100 ml). The aqueous phase was extracted once more with ethyl acetate (100 ml) and the combined organic phase was washed with water (3×100 ml) and saturated aqueous sodium chloride (100 ml) before being dried (MgSO4), filtered and concentrated to an oily residue (3.9 g) which was used in the subsequent reaction without further purification: NMR (200 MHz;CDCl3,TMS)δ: 7.9-7.2(m,8H), 4.37(s,2H), and 3.60(s,3H).

reactant | methyl 4'-bromomethylbiphenyl-2-carboxylate | 16.4 mmol, 5.0 g | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13BrO2
reactant | sodium azide | 41 mmol, 2.7 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | Methyl 4'-azidomethylbiphenyl-2-carboxylate | N(=[N+]=[N-])CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC | C15H13N3O2
